* Z:\mnt\design.r\spice\examples\2934-1.asc
R1 N002 N004 11.8K
R2 N004 0 237K
XU1 N002 N004 N001 0 N003 N005 N006 N001 LTC2934-1
R3 N001 N002 750K
R4 N001 N005 10K
V1 N001 0 PULSE(0 3.3 0 3.3 3.3 2)
R5 N001 N003 10K
V2 N007 0 PWL(0 0 3.999 0 4 5 4.599 5 4.6 0)
M§Q1 N006 N007 0 0 BSS123
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10
.lib LTC2934-1.sub
.backanno
.end
